US06960586B2
Production of 7-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]-2-(2,2,2-trifluoroethyl)-1,2-dihydro-3H-benzo[e]isoindol-3-one
By a ring closure reaction, a detritylation reaction and purification in the same manner as in Example 1 using methyl 1-bromomethyl-6-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-2-naphthoate (0.66 g) and 2,2,2-trifluoroethylamine (2.0 ml), the title compound (0.34 g) was obtained as a colorless amorphous solid.

reactant | methyl 1-bromomethyl-6-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-2-naphthoate | 0.66 g | BrCC1=C(C=CC2=CC(=CC=C12)C(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)C(=O)OC | C39H35BrN2O3
reactant | 2,2,2-trifluoroethylamine | 2.0 ml | FC(CN)(F)F | C2H4F3N
product | 7-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]-2-(2,2,2-trifluoroethyl)-1,2-dihydro-3H-benzo[e]isoindol-3-one | 0.34 g | OC(C(C)C)(C=1N=CNC1)C1=CC2=C(C=3CN(C(C3C=C2)=O)CC(F)(F)F)C=C1 | C21H20F3N3O2
